US05192762
11-Bromomethyl-9,10-dihydro-9,10-ethanoanthracene (Alternate Procedure)
9,10-Dihydro-9,10-ethanoanthracene-11-methanol (1.2 gm), imidazole (0.7 gm) and chlorodiphenylphosphine (1.4 gm) were combined in toluene (80 ml) and treated dropwise with bromine (1.0 gm). The mixture was stirred 10 minutes, then extracted with 10% sodium hydroxide (50 ml) and water (50 ml). The toluene was removed on a rotary evaporator and the residue was dissolved in 1:1 methylene chloride/hexane and placed on a silica gel column. The column was eluted with 1:1 methylene chloride/hexane and the eluant removed on a rotary evaporator to give the product.

reactant | 9,10-Dihydro-9,10-ethanoanthracene-11-methanol | 1.2 gm | C1=CC=CC=2C3C4=CC=CC=C4C(C12)CC3CO | C17H16O
reactant | imidazole | 0.7 gm | N1C=NC=C1 | C3H4N2
reactant | chlorodiphenylphosphine | 1.4 gm | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | bromine | 1.0 gm | BrBr | Br2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 11-Bromomethyl-9,10-dihydro-9,10-ethanoanthracene | BrCC1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C17H15Br
